US08334295B2
1-(3-Ethyl-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-6-methyl-1H-indole-4-carbonitrile (Compound 90)
6-Chloro-1-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-1H-indole-4-carbonitrile (35 mg, 0.113 mmol, 1.0 eq.) was dissolved in 0.5 mL DMF. Potassium carbonate (16 mg, 1 eq.) was added and the reaction mixture was stirred at room temperature for 10 minutes. EtI (9.1 μL, 1 eq.) was added. The reaction mixture was stirred at room temperature for 2 hours. Ethyl acetate was added to the reaction mixture, followed by washing with brine. The organic layer was concentrated and purified (silica gel, 0-80% EtOAC/hexane) to give a white powder (14 mg, 37%). LC-MS shows 335.0 (M−1). 1H NMR (300 MHz, CDCl3): δ 9.37 (br, 1 H), 8.05 (s, 1H), 7.08 (m, 2H), 6.80 (d, 1H), 3.58 (m, 1H), 3.17 (m, 1H), 2.62 (s, 3H), 1.88 (m, 1H), 1.17 (dd, 6H), 1.02 (t, 3H).

reactant | 6-Chloro-1-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-1H-indole-4-carbonitrile | 0.113 mmol, 35 mg, 1.0 eq. | ClC=1C=C(C=2C=CN(C2C1)C=1NC(NC(C1C(C)C)=O)=O)C#N | C16H13ClN4O2
reactant | Potassium carbonate | 16 mg, 1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | EtI | 9.1 μL, 1 eq. | C(C)I | C2H5I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-(3-Ethyl-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-6-methyl-1H-indole-4-carbonitrile | 14 mg, 37% | C(C)N1C(NC(C(=C1N1C=CC=2C(=CC(=CC12)C)C#N)C(C)C)=O)=O | C19H20N4O2
